US06569612B1
2,4-Di-tert-pentylphenol (93.8 g, 0.4 mol), sodium nitrite (0.6 g, 0.009 mol), 60 mL of water, and 300 mL of propyl acetate were stirred mechanically in a one liter flask at 15-20°. Nitric acid (37.8 g of 70% acid, 0.42 mol) was added slowly via dropping funnel over 30 min keeping the temperature between 25 and 300. The mixture was then stirred vigorously for an additional hour before draining off the lower aqueous phase. The organic layer was washed with a solution of 21 g of sodium bicarbonate in 300 mL of water, passed through 9 g of activated charcoal, and concentrated under reduced pressure to an oil. Palladium catalyst (5 g of 5% Pd/C, 50% wet with water) was added to the oily nitrophenol dissolved in 240 mL of isopropyl alcohol. The mixture was heated with a 55° water bath before slowly adding over 1 h a solution of potassium formate (135 g, 1.6 mol) in 130 mL of water while keeping the temperature under 65°. After stirring an additional hour at 55-60°, the mixture was diluted with 300 mL of propyl acetate and 200 mL of warm water and filtered to remove catalyst. The catalyst was washed with 75 mL of propyl acetate and 75 mL of water. The combined propyl acetate layer was separated, washed with water and then brine, concentrated, and diluted with 200 mL of heptane to crystallize the product. After filtering and drying, 85.9 g (86%) of 2-amino-4,6-di-tert-pentylphenol were obtained.

reactant | 2,4-Di-tert-pentylphenol | 0.4 mol, 93.8 g | C(C)(C)(CC)C1=C(C=CC(=C1)C(C)(C)CC)O | C16H26O
reactant | Nitric acid | 0.42 mol, 37.8 g | [N+](=O)(O)[O-] | HNO3
reactant | potassium formate | 1.6 mol, 135 g | C(=O)[O-].[K+]
solvent | water | 130 mL | O | H2O
solvent | propyl acetate | 300 mL | C(C)(=O)OCCC | C5H10O2
solvent | water | 200 mL | O | H2O
catalyst | sodium nitrite | 0.009 mol, 0.6 g | N(=O)[O-].[Na+]
solvent | propyl acetate | 300 mL | C(C)(=O)OCCC | C5H10O2
solvent | water | 60 mL | O | H2O
product | 2-amino-4,6-di-tert-pentylphenol | 85.9 g, 86% | NC1=C(C(=CC(=C1)C(C)(C)CC)C(C)(C)CC)O | C16H27NO
